US07205299B2
Preparing 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-N-quinolin-6-yl-2-thioxoacetamide (11)
3.68 g (9.1 mMol) of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide are added, under nitrogen, to a suspension of 4.00 g (9.1 mMol) of 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-2-oxo-N-quinolin-6-ylacetamide in 200 ml of toluene, after which the mixture is heated at 75° C. for 3 h. The residue which has formed is filtered off in the hot from the reaction solution and subsequently washed with 100 ml of methylene chloride. The filtrate is concentrated in vacuo and the residue is chromatographed on flash silica gel (eluent: methylene chloride/methanol 99:1). The product fractions are filtered on flash silica gel (eluent: n-heptane/ethyl acetate 1:1) after the solvent has been removed once more.

reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 9.1 mMol, 3.68 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-2-oxo-N-quinolin-6-ylacetamide | 9.1 mMol, 4.00 g | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)NC=2C=C3C=CC=NC3=CC2)=O)C=C1 | C26H18ClN3O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(4-chlorobenzyl)-1H-indol-3-yl]-N-quinolin-6-yl-2-thioxoacetamide | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)NC=2C=C3C=CC=NC3=CC2)=S)C=C1 | C26H18ClN3OS
